US06969730B2
2-[5-(3,5-Dimethyl-isoxazol-4-yl)-benzofuran-2-yl]-ethanol
To a well stirred suspension of the product from Example 112B (1.446 g, 6.00 mmol), 3,5-dimethylisoxazole-4-boronic acid (2.09 g, 6.6 mmol) (Frontier Scientific, chemical abstracts number 16114-47-9), palladium (II) acetate (0.07 g, 0.3 mmol), and biphen-2-yl-dicyclohexylphosphine (0.15 g, 0.6 mmol) in toluene (20 mL) was added 10 mL of isopropanol and 10 mL of water. The reaction was heated at 60° C. for 36 hours, then cooled, poured into ethyl acetate (50 mL), and washed with water (100 mL). After drying over sodium sulfate, the organic layer was concentrated in vacuo and purified by flash chromatography, eluting with 1:1:4 of ethyl acetate/hexane/dichloromethane to provide the title compound as a tan oil, (97% yield). MS (DCI) m/z 258.2 (M+H)+; 1HNMR (300 MHz, CDCl3) δ 1.74 (s, 1H), 2.24 (s, 3H), 2.40 (s, 3H), 3.05 (t, 2H, J=6.0 Hz), 4.02 (t, 2H, J=6.0 Hz), 7.08 (dd, 1H, J=9.0,2.1 Hz), 7.34 (d, 1H, J=2.1 Hz), 6.54 (s, 1H), 7.46 (d, 1H, 9.0 Hz).

reactant | 3,5-dimethylisoxazole-4-boronic acid | 6.6 mmol, 2.09 g | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | biphen-2-yl-dicyclohexylphosphine | 0.6 mmol, 0.15 g | C1(=CC=CC=C1C1=CC=CC=C1)P(C1CCCCC1)C1CCCCC1 | C24H31P
reactant | isopropanol | 10 mL | C(C)(C)O | C3H8O
reactant | water | 10 mL | O | H2O
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.3 mmol, 0.07 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[5-(3,5-Dimethyl-isoxazol-4-yl)-benzofuran-2-yl]-ethanol | 97% yield | CC1=NOC(=C1C=1C=CC2=C(C=C(O2)CCO)C1)C | C15H15NO3
